US04548932
To a solution of sodium (2.2 g) in ethanol (50 ml) are added ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)valerate (30 g) and diethyl oxalate (14 g). The mixture is evaporated under reduced pressure at 60° C. for 1 hour and then at 60°-70° C. for 30 minutes. After cooling, water (500 ml) is added to the brown residue. The resulting mixture is acidified with hydrochloric acid and extracted with ethyl acetate (300 ml). The extract is dried over anhydrous magnesium sulfate and evaporated in vacuo to yield an oil. This oil is dissolved in a mixture of dimethylsulfoxide (150 ml), water (15 ml) and lithium chloride (5 g) and the mixture is stirred for 35 minutes at 150°-155° C., cooled, diluted with water (500 ml) and extracted with ethyl acetate (300 ml). The extract is dried over anhydrous magnesium sulfate and evaporated in vacuo to give ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate (26 g) as an oil.

reactant | sodium | 2.2 g | [Na] | Na
reactant | ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)valerate | 30 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(=O)OCC | C20H29NO4
reactant | diethyl oxalate | 14 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | lithium chloride | 5 g | [Cl-].[Li+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | 15 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate | 26 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)=O | C21H29NO5
